US07632857B2
[4-(6-Methoxy-pyridin-2-yl)-phenyl]-[2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to General Procedure B′ using 4-(6-Methoxy-pyridin-2-yl)-benzoic acid (573 mg, 2.5 mmol) and 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine (337 mg, 2.0 mmol) to give 580 mg (76% yield). MS (ES+) 380.2 (M+H)+

reactant | 4-(6-Methoxy-pyridin-2-yl)-benzoic acid | 2.5 mmol, 573 mg | COC1=CC=CC(=N1)C1=CC=C(C(=O)O)C=C1 | C13H11NO3
reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | 2.0 mmol, 337 mg | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | [4-(6-Methoxy-pyridin-2-yl)-phenyl]-[2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | 76% yield | COC1=CC=CC(=N1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H29N3O2
